US07253286B2
6-(4-Aminophenoxy)pyrimidin-4-ylamine
After suspending 6-(4-nitrophenoxy)pyrimidin-4-ylamine (306 mg, 1.32 mmol), iron powder (369 mg, 6.60 mmol) and ammonium chloride (706 mg, 13.2 mmol) in an ethanol (20 ml)-water (5 ml) mixed solvent, the suspension was heated and stirred at 80° C. for 20 minutes. After completion of the reaction, the reaction mixture was filtered with celite and washed in ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was concentrated to obtain the title compound (266 mg, 1.32 mmol, 100%) as light yellow crystals.

reactant | 6-(4-nitrophenoxy)pyrimidin-4-ylamine | 1.32 mmol, 306 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=N2)N)C=C1 | C10H8N4O3
reactant | ammonium chloride | 13.2 mmol, 706 mg | [Cl-].[NH4+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | iron | 6.60 mmol, 369 mg | [Fe] | Fe
solvent | water | 5 ml | O | H2O
product | 6-(4-Aminophenoxy)pyrimidin-4-ylamine | 1.32 mmol, 266 mg, 100% | NC1=CC=C(OC2=CC(=NC=N2)N)C=C1 | C10H10N4O
